US04976773
N-[2-{4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy}propionyl]alanine chloromethyl ketone
N-[2-{4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy}propionylalanine (400 mg) was dissolved in 10 ml of tetrahydrofuran, added with 0.15 ml of triethylamine and cooled to 0° C. Ethyl chlorocarbonate (0.1 ml) was added and after 5 minutes, excessive diazomethane ether solution was added, and the mixture was stirred for one hour. Then, several drops of conc. hydrochloric acid were added and, after stirring for 10 minutes, the reaction mixture was washed with water, extracted with ether, and the extract dried over anhydrous magnesium sulfate. The oily product obtained by evaporation of the solvent under a reduced pressure was subjected to silica gel medium pressure column chromatography to obtain 300 mg of the title compound as a colorless oily product.

reactant | 2-{4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy}propionylalanine | 400 mg | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)N[C@@H](C)C(=O)O)C)C=C1 | C18H16ClF3N2O5
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | Ethyl chlorocarbonate | 0.1 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | diazomethane ether | [N+](=[N-])=C.CCOCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | hydrochloric acid | several drops | Cl | ClH
product | N-[2-{4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy}propionyl]alanine chloromethyl ketone | 300 mg | ClCC(=O)CCl.ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)N[C@@H](C)C(=O)O)C)C=C1 | InChI=1S/C18H16ClF3N2O5.C3H4Cl2O/c1-9(17(26)27)24-15(25)10(2)28-12-3-5-13(6-4-12)29-16-14(19)7-11(8-23-16)18(20,21)22;4-1-3(6)2-5/h3-10H,1-2H3,(H,24,25)(H,26,27);1-2H2/t9-,10?;/m0./s1
